*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/B(-25to85[deg])/1.50e-01[uF]/10[V]
* Murata P/N :GRM155B31A154ME18
* Property : C = 1.50e-01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155B31A154ME18 Port1 Port2
C01 Port1 N01 1.48e-07
R01 Port1 N01 3.33e+08
L02 N01 N02 2.08e-10
R03 N02 N03 2.32e-02
C04 N03 N04 1.15e-05
R04 N03 N04 3.47e+02
C05 N04 N05 1.95e-05
R05 N04 N05 2.76e+01
C06 N05 N06 1.79e-05
R06 N05 N06 4.37e+00
C07 N06 N07 4.17e-05
R07 N06 N07 3.17e-01
C08 N07 N08 2.39e-05
R08 N07 N08 1.62e-01
C09 N08 N09 3.49e-05
R09 N08 N09 3.22e-02
C10 N09 N10 1.35e-05
R10 N09 N10 1.40e-02
L11 N10 N11 2.52e-11
R11 N10 N11 1.65e-01
L12 N11 N12 8.60e-11
R12 N11 N12 6.88e-02
C13 N12 N13 1.43e-07
L13 N12 N13 4.70e-11
R13 N12 N13 1.74e-02
C14 N13 Port2 4.11e-12
L14 N13 Port2 6.87e-11
R14 N13 Port2 1.24e+01
.ENDS GRM155B31A154ME18
